US08168642B2
Preparation of methyl 2-(2,6-difluorophenyl)-4-(2-chloro-4-fluorophenyl)-6-methyl-1,4-dihydro-pyrimidin-5-carboxylate
2 mmol 2,6-Difluorobenzamidine hydrochloride (Boere, R. J., Oakley, R. T., Read, R. V., J. Organometal. Chem. 1987, 331:161-167), 2 mmol 2-chloro-4-fluorobenzaldehyde, 2 mmol methyl acetoacetate and 2.2 mmol sodium acetate were reacted under reflux in 10 ml anhydrous ethanol for 20 hr, concentrated, and then ethyl acetate and water were added to separate the layers. The ethyl acetate layer was dried over anhydrous sodium sulfate, and separated by a column chromatography to obtain 0.21 g of a colorless fine needle crystal with mp 126-128° C.; 1H-NMR (400 MHz, DMSO-d6) δ 2.87 (3H, s); 3.45 (3H, s); 5.92 (1H, s); 7.10-7.38 (6H, m); 9.87 (1H, s); MS (EI) 394.0 (M+).

reactant | 2,6-Difluorobenzamidine hydrochloride | 2 mmol | Cl.FC1=C(C(=N)N)C(=CC=C1)F
reactant | 2-chloro-4-fluorobenzaldehyde | 2 mmol | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | methyl acetoacetate | 2 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium acetate | 2.2 mmol | C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | methyl 2-(2,6-difluorophenyl)-4-(2-chloro-4-fluorophenyl)-6-methyl-1,4-dihydro-pyrimidin-5-carboxylate | 0.21 g | FC1=C(C(=CC=C1)F)C=1NC(=C(C(N1)C1=C(C=C(C=C1)F)Cl)C(=O)OC)C | C19H14ClF3N2O2
